US20010046993A1
Methyl 3-oxo-5-(1,3-thiazole-2-yl)-4-pentenoate was prepared from 3-(1,3-thazol-2-yl)-2-propenoic acid (Bull. Chem. Soc. Jap. 1974, 47, 151.) according to the literature procedure (Heterocycles 1994, 38, 751.). To a stirred solution of 3-(1,3-thiazol-2-yl)-2-propenoic acid (100.0 g, 644.4 mmol) in DMF (1000 ml) was added 1,1′-carbonyldiimidazole (115.0 g, 708.9 mmol) in small portions. After stirring at room temperature for 5 hours, to the reaction mixture were added anhydrous magnesium chloride (73.6 g, 773.0 mmol) and monomethyl malonate potassium salt (120.8 g, 773.0 mmol). The resulting suspension was heated at 55° C. with stirring for 14 h. After cooling to room temperature, the reaction mixture was poured into 1500 ml of 2 N HCl, and extracted with a mixture of EtOAc (1500 ml) and toluene (500 ml). The organic phase was separated and the aqueous phase was extracted with a 3:1 mixture of EtOAc and toluene (2000 ml). The combined organic phase was washed with H2O (1000 ml) and brine (1000 ml), dried (Na2SO4) and evaporated to afford 132.0 g of methyl 3-oxo-5-(1,3-thiazole-2-yl)-4-pentenoate (1/2 of keto/enol form)

reactant | 3-(1,3-thiazol-2-yl)-2-propenoic acid | 644.4 mmol, 100.0 g | S1C(=NC=C1)C=CC(=O)O | C6H5NO2S
reactant | 1,1′-carbonyldiimidazole | 708.9 mmol, 115.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | magnesium chloride | 773.0 mmol, 73.6 g | [Cl-].[Mg+2].[Cl-]
reactant | monomethyl malonate potassium salt | 773.0 mmol, 120.8 g | [K+].C(CC(=O)[O-])(=O)OC
reactant | HCl | 2 N, 1500 ml | Cl | ClH
solvent | DMF | 1000 ml | CN(C)C=O | C3H7NO
product | methyl 3-oxo-5-(1,3-thiazole-2-yl)-4-pentenoate | 132.0 g | O=C(CC(=O)OC)C=CC=1SC=CN1 | C9H9NO3S
